US08030489B2
To a mixture of ethyl 5-formyl-4-methyl-1H-pyrrole-2-carboxylate (0.97 g) and DMF (10 ml) was added sodium hydride (0.23 g) under ice-cooling, followed by stirring at room temperature for 0.5 hour. To a reaction mixture was added methyl iodide under ice-cooling, followed by stirring at room temperature for 15 hours. To the reaction mixture was added water under ice-cooling, followed by stirring at room temperature. The solid precipitated was collected by filtration and washed with water to obtain ethyl 5-formyl-1,4-dimethyl-1H-pyrrole-2-carboxylate (1.0 g).

reactant | ethyl 5-formyl-4-methyl-1H-pyrrole-2-carboxylate | 0.97 g | C(=O)C1=C(C=C(N1)C(=O)OCC)C | C9H11NO3
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | ethyl 5-formyl-1,4-dimethyl-1H-pyrrole-2-carboxylate | 1.0 g | C(=O)C1=C(C=C(N1C)C(=O)OCC)C | C10H13NO3
